US09284278B2
The amine may be obtained, for example in analogy to methods described in DE-A-2333378. For example, the educts 2-aminothiophenol and 4-dimethylamino-2-nitrobenzaldehyde may be reacted to obtain (4-benzothiazol-2-yl-3-nitrophenyl)-dimethylamine, whose nitro group may be reduced to the amine in a conventional manner (e.g. using SnCl2/HCl), and the product is reacted with methane sulfochloride.

reactant | 2-aminothiophenol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 4-dimethylamino-2-nitrobenzaldehyde | CN(C1=CC(=C(C=O)C=C1)[N+](=O)[O-])C | C9H10N2O3
product | (4-benzothiazol-2-yl-3-nitrophenyl)-dimethylamine | S1C(=NC2=C1C=CC=C2)C2=C(C=C(C=C2)N(C)C)[N+](=O)[O-] | C15H13N3O2S
